US09359367B2
(1R,3S)-methyl 3-aminocyclopentanecarboxylate hydrochloride (1.5 g, 8.35 mmol), 4-chloro-N,N-bis(2-chloroethyl)aniline (2.32 g, 9.18 mmol), sodium hydrogencarbonate (4.91 g, 58.4 mmol), and potassium iodide (0.14 g, 0.83 mmol) were suspended in n-butanol (50 mL). The reaction mixture was stirred at 110° C. for overnight. Upon completion, the reaction mixture was evaporated under vacuo. The resulting crude residue was purified by column chromatography using ethyl acetate in hexane as eluent to obtain (1R,3S)-methyl 3-(4-(4-chlorophenyl)piperazin-1-yl)cyclopentanecarboxylate (1.5 g, 55.6%).

reactant | (1R,3S)-methyl 3-aminocyclopentanecarboxylate hydrochloride | 8.35 mmol, 1.5 g | Cl.N[C@@H]1C[C@@H](CC1)C(=O)OC
reactant | 4-chloro-N,N-bis(2-chloroethyl)aniline | 9.18 mmol, 2.32 g | ClC1=CC=C(N(CCCl)CCCl)C=C1 | C10H12Cl3N
reactant | sodium hydrogencarbonate | 58.4 mmol, 4.91 g | C(O)([O-])=O.[Na+]
reactant | potassium iodide | 0.83 mmol, 0.14 g | [I-].[K+]
solvent | n-butanol | 50 mL | C(CCC)O | C4H10O
product | (1R,3S)-methyl 3-(4-(4-chlorophenyl)piperazin-1-yl)cyclopentanecarboxylate | 1.5 g, 55.6% | ClC1=CC=C(C=C1)N1CCN(CC1)[C@@H]1C[C@@H](CC1)C(=O)OC | C17H23ClN2O2
